US03959322
Dissolve dl-3-methoxy-6-methyl-13-ethylgona-1,3,5(10)-trien-17-one (7.0 g) in methanol (300 cc) and treat with sodium borohydride (3.0 g). After spontaneous reflux ceases, make acid with 50% aqueous acetic acid (20 cc). Pour into brine, extract with acid and isolate the dl-3-methoxy-17β-hydroxy-6-methyl-13-ethylgona-1,3,5(10)-triene (6.8 g), m.p. 150°-160°C, λ max. KBr 3.05, 6.45 μ.

reactant | 3-methoxy-6-methyl-13-ethylgona-1,3,5(10)-trien-17-one | 7.0 g | COC1=CC=2C(C[C@@H]3[C@H](CC[C@@]4(C(CC[C@@H]34)=O)CC)C2C=C1)C | C21H28O2
reactant | sodium borohydride | 3.0 g | [BH4-].[Na+]
reactant | acetic acid | 20 cc | C(C)(=O)O | C2H4O2
solvent | methanol | 300 cc | CO | CH4O
solvent | brine | [Cl-].[Na+].O
product | 3-methoxy-17β-hydroxy-6-methyl-13-ethylgona-1,3,5(10)-triene | 6.8 g | COC1=CC=2C(C[C@@H]3[C@H](CC[C@@]4([C@H](CC[C@@H]34)O)CC)C2C=C1)C | C21H30O2
